US04994569
4-(Trifluoromethyl)phenyl isocyanate (0.8 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (1.26 g) in 1,2-dichloroethane (30 cc). The solution obtained is heated to reflux for 5 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on silica (0.063-0.2 mm; 40 g) contained in a column 1 cm in diameter, collecting 20-cc fractions. Fractions 2 and 3, eluted with a mixture of ethyl acetate and cyclohexane (3:7 by volume), are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in petroleum ether, (4RS, 5RS)-2,4-diphenyl-5-[4-(trifluoromethyl)phenylcarbamoyloxy]-5,6-dihydro-4H-1,3-oxazine (1.4 g), m.p. 140° C., is obtained.

reactant | 4-(Trifluoromethyl)phenyl isocyanate | 0.8 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.26 g | C1(=CC=CC=C1)C=1OCC(C(N1)C1=CC=CC=C1)O | C16H15NO2
solvent | 1,2-dichloroethane | 30 cc | ClCCCl | C2H4Cl2
product | (4RS, 5RS)-2,4-diphenyl-5-[4-(trifluoromethyl)phenylcarbamoyloxy]-5,6-dihydro-4H-1,3-oxazine | 1.4 g | C1(=CC=CC=C1)C=1OCC(C(N1)C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(F)(F)F)=O | C24H19F3N2O3
